US09260425B2
A mixture of 100 mg (0.22 mmol) of ethyl 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetate and 1 ml of 1 M aqueous solution of lithium hydroxide in 6 ml of methanol and 2 ml of tetrahydrofuran was stirred for 2 hours. The mixture was concentrated in vacuum and neutralized to pH 5 by careful addition of 1 N aqueous HCl. The product was collected by filtration, washed with water and dried in high vacuum to afford 82 mg (85%) of 2-(4-(3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetic acid. ESI MS m/z 423.0 (M+1).

reactant | ethyl 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetate | 0.22 mmol, 100 mg | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)OCC)C2OCCCC2 | C23H23FN6O3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(4-(3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetic acid | 82 mg, 85% | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)O)C2OCCCC2 | C21H19FN6O3
